US07459554B2
Toluene-4-sulfonic acid 3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl ester:
A solution of {3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol (23 mg, 0.057 mmol) in dry methylene chloride (3 mL) was charged with pyridine (0.1 mL) and Ts2O (21 mg, 0.063 mmol) at −20° C. under N2 atmosphere. The mixture was slowly warmed to rt overnight. The reaction was quenched with water (1 mL), diluted with ethyl acetate (20 mL), washed with sat. aq. NaHCO3 (10 mL) and brine (2×10 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure, and the crude material was purified by silica gel column chromatography (eluting with EtOAc:MeOH=98:2→96:4), yielding the title compound as a white solid. Partial trans isomer was removed by chromatography and the ratio of cis and trans isomers raised to 8:1; MS (ES, Pos.): m/z 555 [MH+]. 1H NMR (CDCl3, 400 MHz) δ 2.27-2.35 (m, 2H), 2.41 (s, 3H), 2.55-2.62 (m, 2H), 2.80 (m, 1H), 3.66 (m, 1H), 4.07 (d, J=6.7 Hz, 2H), 5.01 (br s, 2H, NH2), 5.15 (s, 2H), 7.02-7.85 (m, 15H). Anal. Calcd for C31H30N4O4S.1/3H2O: C, 66.41; H, 5.51; N, 9.99. Found: C, 66.43; H, 5.44; N, 10.07.

reactant | {3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol | 0.057 mmol, 23 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C2CC(C2)CO | C24H24N4O2
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | Ts2O | 0.063 mmol, 21 mg | O(S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C14H14O5S2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-sulfonic acid 3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutylmethyl ester | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C2CC(C2)COS(=O)(=O)C2=CC=C(C=C2)C | C31H30N4O4S
